US04206225
A solution of 25.6 g. (0.10 mole) 2-(2',5'-dihydroxyphenyl)-5-phenylpentane and 14.0 g. (0.10 mole) of 2-acetylcyclohexanone in 75 ml. of glacial acetic acid is cooled to 15° C. and anhydrous hydrogen chloride gas is passed through the solution for 30 minutes. The resulting red solution is allowed to warm to room temperature and stirred for four days. The solution is then added to a suspension of 40 g. of sodium bicarbonate in 500 ml. of methanol at -5° C. and the resulting mixture is treated portionwise with 2.0 g. of sodium cyanoborohydride. The mixture is concentrated in vacuo, the residue diluted with water and the aqueous solution extracted with ether (3×300 ml.). The combined extracts are washed with water, 5% aqueous sodium bicarbonate, dried over sodium sulfate and concentrated in vacuo. The residue is dissolved in a solution of 350 ml. of pyridine and 140 g. of acetic anhydride, refluxed for 15 minutes, then allowed to stir at 25° C. overnight. The resulting mixture is again evaporated in vacuo and the residue dissolved in hexane. The solution is washed with water, dilute hydrochloric acid and water, dried (Na2SO4) and concentrated in vacuo to afford crude dl-7,8,9,10-tetrahydro-2-acetoxy-6-methyl-3-(1-methyl-4-phenylbutyl)-6H-dibenzo[b,d]pyran which is purified by chromatography on silica gel.

reactant | 2-(2',5'-dihydroxyphenyl)-5-phenylpentane | 0.10 mole | OC1=C(C=C(C=C1)O)C(C)CCCC1=CC=CC=C1 | C17H20O2
reactant | 2-acetylcyclohexanone | 0.10 mole | C(C)(=O)C1C(CCCC1)=O | C8H12O2
reactant | hydrogen chloride | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | methanol | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7,8,9,10-tetrahydro-2-acetoxy-6-methyl-3-(1-methyl-4-phenylbutyl)-6H-dibenzo[b,d]pyran | C(C)(=O)OC1=CC2=C(OC(C3=C2CCCC3)C)C=C1C(CCCC1=CC=CC=C1)C | C27H32O3
